US06218390B1
To a suspension of sodium hydride (0.29 g, 11.39 mmol) in 48 mL THF was added a solution of 2-chloro-N-[1-(3,4-difluoro-phenyl)-2-hydroxy-ethyl]-acetamide (2.6 g, 10.4 mmol) in 48 mL THF dropwise via a dropping funnel at −25° C. over 20 min. After the addition was over, the cooling bath was removed and the reaction mixture was stirred at room temperature for 8 hours. TLC analysis indicated a complete disappearance of the starting material. The reaction was quenched by adding a few crystals of ice. It was extracted thoroughly with EtOAc (3×30 mL) and was washed with brine. The organic layer was separated and dried over MgSO4. The organic layer was filtered and the solvent was removed in vacuo. The residue was suspended in EtOAc and the white solid was collected via filtration which was found to be 5-(3,4-difluoro-phenyl)-morpholin-3-one (0.8 g, 38% yield).

reactant | sodium hydride | 11.39 mmol, 0.29 g | [H-].[Na+]
reactant | 2-chloro-N-[1-(3,4-difluoro-phenyl)-2-hydroxy-ethyl]-acetamide | 10.4 mmol, 2.6 g | ClCC(=O)NC(CO)C1=CC(=C(C=C1)F)F | C10H10ClF2NO2
solvent | THF | 48 mL | C1CCOC1 | C4H8O
solvent | THF | 48 mL | C1CCOC1 | C4H8O
product | 5-(3,4-difluoro-phenyl)-morpholin-3-one | 0.8 g, 38% yield | FC=1C=C(C=CC1F)C1COCC(N1)=O | C10H9F2NO2
